US06306895B1
To a solution of (2S)-1-(4-fluorophenoxy)-2-(methoxyethoxymethyloxy)-hexan-6-ol (1.25 g, 3.9 mmol) and oxalyl chloride (0.7 ml, 7.9 mmol) in dry CH2Cl2 was added dry DMSO (1.12 ml, 15.8 mmol) slowly at −78° C. The stirring was continued for a further 30 min. at −78° C. and quenched with dry Et3N (3.15 ml, 23.7 mmol). The reaction mixture was extracted with CH2Cl2 and dried (Na2SO4) to afford the crude aldehyde (1.1 g, 85%). A 20% methanolic HCl solution was added to the aldehyde and stirred for 5 h. at room temperature. The reaction mixture was neutralised with aqueous NaHCO3, extracted with ethyl acetate, dried (Na2SO4) and concentrated under vacuum. The crude product was purified by silica gel column chromatography to give a cis-trans mixture (2RS, 6S)-6-(4-fluorophenoxymethyl)-2-methoxytetrahydropyran (0.6 g, 80%) as a yellow syrup. TLC:ethyl acetate-light petroleum (1:3), Rf=0.8. 1H NMR (CDCl3, 200 MHz): δ 1.6-2.0 (m, 6H), 3.45 (s, 3H), 3.9-3.96 (m, 2H), 4.0-4.15 (m, 1H), 4.8 (s, 1H), 6.8-7.01 (m, 4H).

reactant | (2S)-1-(4-fluorophenoxy)-2-(methoxyethoxymethyloxy)-hexan-6-ol | 3.9 mmol, 1.25 g | FC1=CC=C(OC[C@H](CCCCO)OCOCCOC)C=C1 | C16H25FO5
reactant | oxalyl chloride | 7.9 mmol, 0.7 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 15.8 mmol, 1.12 ml | CS(=O)C | C2H6OS
reactant | Et3N | 23.7 mmol, 3.15 ml | CCN(CC)CC | C6H15N
reactant | HCl | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2RS, 6S)-6-(4-fluorophenoxymethyl)-2-methoxytetrahydropyran | 0.6 g, 80% | FC1=CC=C(OC[C@@H]2CCCC(O2)OC)C=C1 | C13H17FO3
